US06063956
Preparation of (E)-Methyl 2-[2-((((1-(1,2-diphenylcyclopropyl)ethylidene)amino)-oxy)methyl)phenyl]-2-methoxyiminoacetate
To a 50 ml round bottom flask equipped with magnetic stirrer and reflux condenser was charged the 0.8 g (0.0034 moles, 1.0 eq.) of 1,2-diphenylcyclopropylmethyl ketone 50 mls of anhydrous toluene, approximately 20 4A molecular sieves, and 0.9 g (0.0037 moles, 1.1 eq.) of (E)-2-(aminooxymethyl)phenylglyoxylate O-methyloxime. The reaction was refluxed for a total of 2.5 hours, then cooled, and filtered through filter paper to remove the insoluble material. The filtrate was poured into 100 mls of water and extracted with 3×50 mls of ether. The ether extract was then washed with 2×100 mls of water, 100 mls of saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered, and concentrated on a rotary evaporator to afford 1.4 g of a thick amber liquid which was chromatographed on silica gel with 20% ethyl acetate, 80% hexane. The pure fractions were combined and concentrated on a rotary evaporator to afford 460 mg of a thick clear colorless oil (30% isolated yield) consistent with the desired product, (E)-Methyl 2-[2-((((1-(1,2-diphenylcyclopropyl)ethylidene)amino)-oxy)methyl)phenyl]-2-methoxyiminoacetate upon analysis by 300 MHz 1H NMR.

reactant | 1,2-diphenylcyclopropylmethyl ketone | 0.0034 moles, 50 mls, 0.8 g, 1.0 eq. | C1(=CC=CC=C1)C1(C(C1)C1=CC=CC=C1)CC(=O)CC1(C(C1)C1=CC=CC=C1)C1=CC=CC=C1 | C33H30O
reactant | (E)-2-(aminooxymethyl)phenylglyoxylate O-methyloxime | 0.0037 moles, 0.9 g, 1.1 eq. | CO\N=C(\C(=O)[O-])/C1=C(C=CC=C1)CON
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | (E)-Methyl 2-[2-((((1-(1,2-diphenylcyclopropyl)ethylidene)amino)-oxy)methyl)phenyl]-2-methoxyiminoacetate | 1.4 g | C1(=CC=CC=C1)C1(C(C1)C1=CC=CC=C1)C(C)=NOCC1=C(C=CC=C1)\C(\C(=O)OC)=N/OC | C28H28N2O4
